US06969710B2
N-{4-(1,4-diazepan-1-yl)-2-[(phenylsulfonyl)amino]phenyl}-2-naphthalenesulfonamide hydrochloride was synthesized from N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}benzenesulfonamide (0.084 g, 0.19 mmol) and, 2-naphtylsulfonyl chloride (0.055 mL, 0.24 mmol) to give 67.8 mg of a light purple solid; Anal. (C24H27ClN4O3S) C, H, N, S; M+ 529.2 Calcd 529.12.

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}benzenesulfonamide | 0.19 mmol, 0.084 g | NC1=C(C=C(C=C1)N1CCN(CCC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=CC=C1 | C22H30N4O4S
reactant | 2-naphtylsulfonyl chloride | 0.24 mmol, 0.055 mL | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
product | N-{4-(1,4-diazepan-1-yl)-2-[(phenylsulfonyl)amino]phenyl}-2-naphthalenesulfonamide hydrochloride | Cl.N1(CCNCCC1)C1=CC(=C(C=C1)NS(=O)(=O)C1=CC2=CC=CC=C2C=C1)NS(=O)(=O)C1=CC=CC=C1 | InChI=1S/C27H28N4O4S2.ClH/c32-36(33,24-9-2-1-3-10-24)30-27-20-23(31-17-6-15-28-16-18-31)12-14-26(27)29-37(34,35)25-13-11-21-7-4-5-8-22(21)19-25;/h1-5,7-14,19-20,28-30H,6,15-18H2;1H
